US04613618
A solution of ε(4-nitro 2-methoxy-benzenesulfonamido)caproic acid (1.4 g) in solution in ethyl acetate (150 cm3) is stirred magnetically under a hydrogen atmosphere in the presence of 5% palladized charcoal (120 mg). After four hours, the hydrogen absorption being terminated, the catalyst is filtered and the filtrate concentrated under reduced pressure. Pure ε(4-amino 2-methoxy-benzenesulfonamido)caproic acid is obtained, with a yield of 98%.

reactant | ε(4-nitro 2-methoxy-benzenesulfonamido)caproic acid | 1.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)S(=O)(=O)NCCCCCC(=O)O)OC | C13H18N2O7S
reactant | charcoal | 120 mg | C | CH4
solvent | ethyl acetate | 150 cm3 | C(C)(=O)OCC | C4H8O2
product | ε(4-amino 2-methoxy-benzenesulfonamido)caproic acid | yield of 98% | NC1=CC(=C(C=C1)S(=O)(=O)NCCCCCC(=O)O)OC | C13H20N2O5S
